US06444253B1
30% Capric acid (Decanoic acid CAS #334-48-5)
30% A blend of 80% Polysorbate 20 and 20% Drewpol 10-10-0 (trademark of Stephan Company, a mix of Decaglycerol Decaoleate CAS #11094-60-3 and Oleic acid CAS #112-80-1)

reactant | Decaglycerol Decaoleate | C(CCCCCCC\C=C/CCCCCCCC)(=O)O.C(CCCCCCC\C=C/CCCCCCCC)(=O)O.C(CCCCCCC\C=C/CCCCCCCC)(=O)O.C(CCCCCCC\C=C/CCCCCCCC)(=O)O.C(CCCCCCC\C=C/CCCCCCCC)(=O)O.C(CCCCCCC\C=C/CCCCCCCC)(=O)O.C(CCCCCCC\C=C/CCCCCCCC)(=O)O.C(CCCCCCC\C=C/CCCCCCCC)(=O)O.C(CCCCCCC\C=C/CCCCCCCC)(=O)O.C(CCCCCCC\C=C/CCCCCCCC)(=O)O.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO
reactant | Oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
product | Capric acid | OC(=O)CCCCCCCCC | C10H20O2
